US08754079B2
4-[2-(4,4-Difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-dimethylamino-propyl)-amide
Prepared analogously to 33.3 from 0.050 g 4-[2-(4,4-difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (cpd. 33.2) and 0.126 ml N,N-dimethyl-propane-1,3-diamine.

reactant | 4-[2-(4,4-difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.050 g | FC1(CCC(CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)F | C20H18F3N3O3S
reactant | N,N-dimethyl-propane-1,3-diamine | 0.126 ml | CN(CCCN)C | C5H14N2
product | 4-[2-(4,4-Difluoro-cyclohexyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-dimethylamino-propyl)-amide | CN(CCCNC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)OC2CCC(CC2)(F)F)S1)C)C | C25H30F3N5O2S
